US04353827
7.8 g (0.039 mol) of 4-chloro-5-fluoroisatin are suspended in 50 ml of 100 percent acetic acid, treated with 0.25 ml of concentrated sulphuric acid and then at 30° 4.4 ml (0.043 mol) of 30 percent hydrogen peroxide are added thereto. The mixture is subsequently heated to 70° for 2.5 hours, then cooled to 10° and filtered. The crude product is recrystallized from acetone/hexane, there being obtained 6-chloro-5-fluoroisatoic acid anhydride of melting point 275°-278° (decomposition).

reactant | 4-chloro-5-fluoroisatin | 0.039 mol, 7.8 g | ClC1=C2C(C(NC2=CC=C1F)=O)=O | C8H3ClFNO2
reactant | sulphuric acid | 0.25 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | 0.043 mol, 4.4 ml | OO | H2O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 6-chloro-5-fluoroisatoic acid anhydride | ClC=1C(=CC=C2C1C(=O)OC(N2)=O)F | C8H3ClFNO3
